### PR TITLE
Fixed version of #571

### PR DESCRIPTION
**Pull request by benediktahrens**
Anders' comments on #571 still apply, the purpose of this PR is only to fix the compilation error #571 is suffering from.

### CODE REVIEW

**Comment by DanGrayson** [comment]
Why not fix it on the same pull request?

**Comment by benediktahrens** [comment]
On 02/13/2017 11:13 PM, Daniel R. Grayson wrote:
> Why not fix it on the same pull request?

I don't have the right to modify Peter's branch from which the PR was filed.

**Comment by DanGrayson** [comment]
Oh, I didn't notice.

File: UniMath/Foundations/PartB.v [hunk 1]
```diff
@@ -1287,6 +1288,25 @@ Proof.
   intro X. intro is. intros x x'. apply (isaproppathsfromisolated X x (is x)).
 Defined.
 
+(** *** Decidable equality on a sigma type *)
+Lemma isdeceq_total2 {X : UU} {P : X -> UU}
+  : isdeceq X -> (∏ x : X, isdeceq (P x)) → isdeceq (∑ x : X, P x).
+Proof.
+  intros X P HX HP.
+  intros xp yq.
+  destruct (HX (pr1 xp) (pr1 yq)) as [e_xy | ne_xy].
```
Comment (DanGrayson) [inline UniMath/Foundations/PartB.v]: The style guide says to use induction instead of destruct.

File: UniMath/Foundations/PartB.v [hunk 2]
```diff
@@ -1287,6 +1288,25 @@ Proof.
...
+  - destruct ((HP _) (transportf _ e_xy (pr2 xp)) (pr2 yq)) as [e_pq | ne_pq].
+    + apply inl. exact (total2_paths_f e_xy e_pq).
+    + apply inr. intro e_xpyq. apply ne_pq.
+      set (e_pq := fiber_paths e_xpyq).
+      refine (_ @ e_pq).
+      refine (maponpaths (fun e => transportf _ e _) _).
+  (* NOTE: want [maponpaths_2] from the [TypeTheory] library here. Upstream it to [Foundations], perhaps? *)
+      apply isasetifdeceq, HX.
+  - apply inr. intros e_xypq. apply ne_xy, base_paths, e_xypq.
+Defined.
```
Comment (DanGrayson) [inline UniMath/Foundations/PartB.v]: I made this lemma for myself a week ago (but didn't submit it).  For your amusement, here it is:
```
Lemma isdecsum {X:UU} {Y:X→UU} : isdeceq X → (∏ x, isdeceq(Y x)) → isdeceq(∑ x, Y x).
Proof.
  intros ? ? dx dy.
  intros z z'.
  unfold decidable.
  induction (dx (pr1 z) (pr1 z')) as [e|e'].
  - induction (dy (pr1 z') (transportf _ e (pr2 z)) (pr2 z')) as [s|s'].
    + apply ii1. exact (total2_paths_f e s).
    + apply ii2. intro w. apply s'. clear s'. simple refine (_ @ fiber_paths w).
      apply (maponpaths (λ r, transportf _ r _)). apply uip. apply isasetifdeceq. exact dx.
  - apply ii2. intro e. apply e'. apply maponpaths. exact e.
Defined.
```
